US05510318
3-(1,1-Dimethylethyl)-5,6-dihydro-6-methyl-4H-1,2-oxazine-6-methanol
To a solution of 1-bromo-3,3-dimethyl-2-butanone oxime (4.5 g) (J. Org. Chem., 1979, 44, 3861) in dichloromethane (150 mL) was added methallyl alcohol (22 mL) and sodium carbonate (16 g). The reaction mixture was stirred at room temperature for 40 h and then filtered through a pad of Celite. The solvent and excess alcohol were removed at reduced pressure. The residue was chromatographed on silica gel with 2:1 hexanes/ethyl acetate to give the title compound (3.2 g) as a low melting waxy solid. NMR (200 Mhz, CDCl3) 3.5 (m, 2H, CH2OH), 2.2-1.6 (m, 4H, ring CH2 's), 1.2 (s, 12H, t-Bu and Me). IR (Nujol) 3240 cm-1 (br, OH).

reactant | 1-bromo-3,3-dimethyl-2-butanone oxime | 4.5 g | BrCC(C(C)(C)C)=NO | C6H12BrNO
reactant | methallyl alcohol | 22 mL | C(C(C)=C)O | C4H8O
reactant | sodium carbonate | 16 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 3-(1,1-Dimethylethyl)-5,6-dihydro-6-methyl-4H-1,2-oxazine-6-methanol | 3.2 g | CC(C)(C)C1=NOC(CC1)(CO)C | C10H19NO2
